US04436903
36.6 g of 7β-amino-3-cephem-4-carboxylic acid benzhydryl ester in 60 ml of anisole are reacted for 10 minutes at room temperature with 240 ml of trifluoroacetic acid. The reaction mixture is diluted with toluene and evaporated to dryness in vacuo. The residue is dissolved in a mixture of 150 ml of methanol, 250 ml of ether and 10 ml of water and the pH is adjusted to 3.5 with triethylamine. The suspension is cooled for 1 hour to 0° C. and the fine-crystalline precipitate of 7β-amino-3-cephem-4-carboxylic acid is isolated by filtration.

reactant | 7β-amino-3-cephem-4-carboxylic acid benzhydryl ester | 36.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2N)=O | C20H18N2O3S
reactant | trifluoroacetic acid | 240 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 60 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7β-amino-3-cephem-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
